US05382585
0.48 g (60 mmol) of lithium hydride is added in portions to a solution of 5.0 g (25 mmol) of 6-ethyl-[1,2,5]oxadiazolo[3,4-d]pyrimidine-5,7(4H,6H)-dione-1-oxide in 250 ml of DMF. The mixture is heated at 60° C. for 15 minutes, then 4.9 g (30 mmol) of 3-picolyl chloride hydrochloride are added and the mixture is heated at 80° C. for 3 hours. It is then largely concentrated, the residue is taken up with ethyl acetate and the mixture is extracted with 10% strength hydrochloric acid. The aqueous extract is neutralised and extracted with ethyl acetate. Relatively readily volatile impurities are removed by distillation in vacuo at 100° C./0.5 mm Hg and the residue is chromatographed. 1.4 g (20%) of 6-ethyl-4-(3-pyridylmethyl)-[1,2,5]oxadiazolo[3,4-d]pyrimidine-5,7(4H,6H)-dione-1-oxide are obtained as a highly viscous oil.

reactant | lithium hydride | 60 mmol, 0.48 g | [H-].[Li+]
reactant | 6-ethyl-[1,2,5]oxadiazolo[3,4-d]pyrimidine-5,7(4H,6H)-dione-1-oxide | 25 mmol, 5.0 g | C(C)N1C(NC=2C(C1=O)=[N+](ON2)[O-])=O | C6H6N4O4
reactant | 3-picolyl chloride hydrochloride | 30 mmol, 4.9 g | Cl.N1=CC(=CC=C1)CCl
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 6-ethyl-4-(3-pyridylmethyl)-[1,2,5]oxadiazolo[3,4-d]pyrimidine-5,7(4H,6H)-dione-1-oxide | 1.4 g, 20% | C(C)N1C(N(C=2C(C1=O)=[N+](ON2)[O-])CC=2C=NC=CC2)=O | C12H11N5O4
